US06060484
3-phenyl-3-cyclohexanepropanamide
A solution of 3-phenyl-3-cyclohexanepropanoic acid (0.5 g, 2.15 mmol) and oxalyl chloride (0.3 ml, 3.01 mmol) in 5 ml of toluene was stirred for 3 hours at 35-40° C. and then at room temperature overnight. The mixture was then concentrated in vacuo to provide a yellow oil which was dissolved in 5 ml of CH2Cl2, cooled to 0° C. and treated with 2-chloroaniline. The resultant mixture was stirred at 0° C. for 2 hours and filtered. The filtrate was then washed sequentially with 1.0N HCl, NaHCO3 and brine, dried over Na2SO4, filtered and then concentrated in vacuo to provide a white solid (0.66 g, 92%). A portion of this solid was recrystallized (hexanes/CH2Cl2) to provide a white solid.

reactant | 3-phenyl-3-cyclohexanepropanoic acid | 2.15 mmol, 0.5 g | C1(=CC=CC=C1)C1(CCCCC1)CCC(=O)O | C15H20O2
reactant | oxalyl chloride | 3.01 mmol, 0.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-phenyl-3-cyclohexanepropanamide | 0.66 g, 92% | C1(=CC=CC=C1)C1(CCCCC1)CCC(=O)N | C15H21NO
